* \\wsl.localhost\Ubuntu\home\caleb\capstone\spice\SimpleSim.asc
V1 N001 0 PULSE(0 5 0 0.000000001 0.000000001 0.0005 0.001 0)
R1 N001 0 1k
M1 N002 N001 N003 N003 BSP89
M2 N003 N004 0 0 BSP89
V2 N002 0 10 Rser=1000
A1 N001 0 0 0 0 N004 0 0 BUF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\caleb\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.01
.backanno
.end
