* C:\Users\caleb\Documents\capstonewindows\SimpleSim.asc
V1 N001 0 PULSE(0 5 0 1n 1n 0.5m 1m 0)
R1 N001 0 1k
M1 N002 N001 Out Out BSP89
M2 Out N003 0 0 BSP89
V2 N002 0 10 Rser=1000
A1 N001 0 0 0 0 N003 0 0 BUF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\caleb\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.01
.backanno
.end
